US06472412B1
A mixture of 5,6-dimethoxy-3-methylpyridazine-2-oxide (0.5 g) in acetic anhydride (2 mL) is refluxed for 2 hours. After cooling the mixture is diluted with water and extracted with ethyl acetate (2×20 mL). The extracts are dried (MgSO4) and evaporated to give a brown oil which is purified by flash chromatography (ethyl acetate as eluent on silica) to give 6-acetoxymethyl-3,4-dimethoxypyridazine (0.27 g) as a colourless oil.

reactant | 5,6-dimethoxy-3-methylpyridazine-2-oxide | 0.5 g | COC=1C=C([N+](=NC1OC)[O-])C | C7H10N2O3
reactant | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 6-acetoxymethyl-3,4-dimethoxypyridazine | 0.27 g | C(C)(=O)OCC1=CC(=C(N=N1)OC)OC | C9H12N2O4
